***********************************************************************
**  v1.7.5 PSpice Models Library - TI NexFET Power N/P Channel FET's
*  (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
* Notice:
* The data and models provided herein are intended to be used by 
* customers as an aid in designing electrical circuits using 
* semiconductor devices manufactured &/or sold by Texas Instruments.
* The models and associated information contained herein are not to
* be construed as a guarantee of electrical performance and/or device 
* specification.  Therefore, Texas Instruments does not assume any 
* liability arising out of the use of said data or models, nor from
* the devices or products manufactured therefrom.  Texas Instruments
* does not convey any license under its patent rights nor the rights
* of others.  Texas Instruments reserves the right to change models 
* without prior notice.  
*
* TI is a registered trademark of Texas Instruments Inc.
*************************************************************************
********************************************************************************
*
* Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: CSD17552Q5A
* Date: 12/06/2012
* Model Type: TRANSIENT
* Simulator: PSPICE
* Datasheet: SLPS428 - November 2012
*
*****************************************************************************
*$
**********************************************************************
**********************************************************************
*                                                                    *
* CSD17552Q5A   -  PSpice Model for use with OrCAD                   *
*                                                                    *
**********************************************************************
**********************************************************************
* SUBCKT Definition:  1=D  2=G  3=S
**********************************************************************
.SUBCKT CSD17552Q5A  1 2 3
* PARAMETER (local) DEFINITIONS SECTION
 .PARAM  ptrc1    5.75e-3  
 .PARAM  ptrc2    {15.00e-6*1}
 .PARAM  pwidthP  2.3769
 .PARAM  pwidth   {pwidthP*1e6}
 .PARAM  perimP   {2.1*pwidthP}
 .PARAM  perim    {perimP*1e6}
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
M1   10 11 12 12  NMOS	W={pwidthP} L=0.5u  PS={perimP} PD={perimP}
DBD   8  7	 DBD
CBD0  8  7   3e-12
RBD0  8  7   1e10
*CGD0  5  7	 100E-12
CGS0  5  8	 0.5e-12
M2   12 11 12 20  PMOSd W={pwidthP} L=0.1u PS={perimP} PD={perimP}
DDx  20  10  DDx
DDG1  10	101	DD
DDG2  5	101	DD
* Note:  gate oxide capacitance included in NMOS below
LGG   2  5	 2.1e-9
RGG   5 11	 1.1
RSB  12  9	 RTEMP 0.02e-3
RSS   9  8 	 RTEMP 0.40e-3
RSP   8  6 	 0.53e-3
LSS   6  3	 0.47e-9
RSL   6  3   0.5
RDD   7 10 	 RTEMP 3.40e-3
RDP   4  7	 0.01e-3
LDD   1  4	 0.05e-9
******************************************************************* 
.MODEL  NMOS   NMOS (
* CONTROL PARAMETERS
+ LEVEL  = 7             VERSION = 3.2         CAPMOD = 2
* DC PARAMETERS
+ NLX    = 1.74E-7       VBM    = -5           DVT0   = 2.2
+ DVT1   = 0.53          DVT2   = -0.032       U0     = 670
+ UA     = 3.0e-9        UB     = 0.0e-19      A0     = 0.9
+ AGS    = 0.0           A1     = 0.0          A2     = 0.9
+ LINT   = 0.055e-6      VOFF   = -0.265      NFACTOR= 1.7
+ ETA0   = 0.005         ETAB   = -0.07        DSUB   = 1.4
+ PCLM   = 3.00          PDIBLC1= 0.02         PDIBLC2= 0.004
+ DROUT  = 0.90          PSCBE1 = 3.0e8        PSCBE2 = 1e-6
+ PVAG   = 0.1           DELTA  = 0.0220       JS     = 0
* AC AND CAPACITANCE PARAMETERS
+ CGSO   = 200.00e-12		CGDO   = 1e-18        CGBO   = 1e-18
+ CJ     = 1e-18         CJSW   = 1e-18        CF     = 0
* TEMPERATURE PARAMETERS
+ TNOM   = 25            UTE    = -1.5         KT1    = -0.80
+ KT1L   = 1.0e-15       KT2    = 0.022        UA1    = -01.00e-9
+ UB1    = -0.0e-17      
* PROCESS PARAMETERS
+ TOX    = 3.00e-8       XJ     = 3e-7          NCH    = 1.325e17
+ NSUB   = 1.0e16)
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 25            VTO    = -1.0          IS     = 6.0e-14
+ TOX    = 3.0e-8        NSUB   = 2.0e17		GAMMA  = 15
+ CJ     = 1e-18         CJSW   = 1e-18
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 0  )
*******************************************************************
.MODEL DBD D (CJO=1700e-12 VJ=1.0 M=0.625 TNOM=25
+ FC=0.5 TT=2e-09 XTI=3.3 BV=31
+ IS=9.0e-12 N=1.07 RS=1.00e-3 TRS1=4.0e-3)
.MODEL DD  D (CJO=0.40e-09 VJ=0.9 M=0.9 IS=1e-13 RS=0.1 TNOM=25)
.MODEL DDx D (CJO=0.0001e-09 VJ=0.9 M=0.9 IS=1e-13 RS=1.0 TNOM=25)
*******************************************************************
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
*******************************************************************
.ENDS CSD17552Q5A
*$